US06846492B2
a) 4-Dodecyloxy-3-methoxybenzaldehyde
Vanillin (100 g; 0.657 mol) is dissolved in ethanol (500 ml), and dried K2CO3 (101.5 g; 0.73 mol) is added. Heating to 80° C. is then carried out and 1-bromododecane is added dropwise under a protective gas atmosphere. The suspension is heated at reflux for a further 16 hours. After cooling to 25° C., filtration is carried out, the residue is then washed several times with ethanol and the combined filtrates are concentrated to dryness by evaporation. The residue is dissolved in tert-butyl methyl ether. Washing is then carried out with 1M aqueous sodium hydroxide solution (3×200 ml) and water (1×200 ml), and the organic phase is dried over Na2SO4, filtered off and concentrated to dryness by evaporation.

reactant | Vanillin | 0.657 mol, 100 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | K2CO3 | 0.73 mol, 101.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromododecane | BrCCCCCCCCCCCC | C12H25Br
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-Dodecyloxy-3-methoxybenzaldehyde | C(CCCCCCCCCCC)OC1=C(C=C(C=O)C=C1)OC | C20H32O3
